US07968581B2
Step 6: 4-[4-(3-Cyanophenyl)-2,5-dioxo-4-hydroxymethyl-3-methylimidazolidin-1-yl]-2-trifluoromethyl-benzonitrile
328 μL of trifluoroborane-dimethylsulfide complex are added to a solution of 354 mg of 4-[4-(3-cyanophenyl)-2,5-dioxo-3-methyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile (in DCM (5 mL. The mixture is stirred 6 hours at room temperature, diluted with DCM, washed with an aqueous solution of sodium bicarbonate, dried over magnesium sulfate, concentrated and purified on silica gel (ethyl acetate/cyclohexane 0/100 to 50/50) to give the desired compound.

reactant | 4-[4-(3-cyanophenyl)-2,5-dioxo-3-methyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | 354 mg | C(#N)C=1C=C(C=CC1)C1(N(C(N(C1=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)C)COCC=C | C23H17F3N4O3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-[4-(3-Cyanophenyl)-2,5-dioxo-4-hydroxymethyl-3-methylimidazolidin-1-yl]-2-trifluoromethyl-benzonitrile | C(#N)C=1C=C(C=CC1)C1(N(C(N(C1=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)C)CO | C20H13F3N4O3
